US06600036B2
8-Methoxy-3-methyl-6-phenyl-11H-imidazo[1,2-c][2,3]benzodiazepine
500 mg of 8-methoxy-1-phenyl-4,5-dihydro-3H-2,3-benzodiazepine-4-thione is stirred in 1.5 ml of ethylene glycol monomethyl ether (Cellosolve® and 548 mg of 2-aminomethyl-2-methyl-1,3-dioxolane while argon is passing through it for 10 hours at 60° C. After filtration and washing with cold ethanol and diisopropyl ether, 550 mg of imino compound, which is dissolved in 10 ml of ethanol, mixed with 10 ml of concentrated hydrocholoric acid and refluxed for 3 hours, is obtained. It is added to water, set at pH 11 and extracted with ethyl acetate. The ethyl acetate phase is washed with water, dried, filtered and concentrated by evaporation. After recrystallization from ethyl acetate/diisopropyl ether, 240 mg of 8-methoxy-3-methy-6-phenyl-11H-imidazo[1,2-c][2,3]benzodiazepine with a melting point of 140° C. is obtained.

reactant | 8-methoxy-1-phenyl-4,5-dihydro-3H-2,3-benzodiazepine-4-thione | 500 mg | COC1=CC2=C(CC(NN=C2C2=CC=CC=C2)=S)C=C1 | C16H14N2OS
reactant | Cellosolve | CCOCCO | C4H10O2
reactant | 2-aminomethyl-2-methyl-1,3-dioxolane | 548 mg | NCC1(OCCO1)C | C5H11NO2
reactant | water | O | H2O
solvent | ethylene glycol monomethyl ether | 1.5 ml | COCCO | C3H8O2
product | 8-Methoxy-3-methyl-6-phenyl-11H-imidazo[1,2-c][2,3]benzodiazepine | COC1=CC2=C(CC=3N(N=C2C2=CC=CC=C2)C(=CN3)C)C=C1 | C19H17N3O
